US08349824B2
A mixture of 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-amine (2.39 g, 11.2 mmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (2.22 g, 11.2 mmol), propylphosphonic anhydride (50% in ethyl acetate, 16.5 ml, 28.0 mmol) and N,N-diisopropylethylamine (5.72 ml, 33.7 mmol) in tetrahydrofuran (80 ml) was refluxed for 18 hours under argon atmosphere. The solvent was evaporated and the resulting yellowish oil was triturated with sat. sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water 4 times and dried in vacuo affording 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (3.64 g, 82.5%) as a light yellow solid. mp: 177-180° C., MS: m/z=393.0/395.0 (M+H+)

reactant | 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 11.2 mmol, 2.39 g | BrC1=NN2C(C=C(C=C2)N)=N1 | C6H5BrN4
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 11.2 mmol, 2.22 g | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | 28.0 mmol, 16.5 ml | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 33.7 mmol, 5.72 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.64 g, 82.5% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)Br)=O)C | C14H13BrN6O3
